US06924278B2
(2R)-1-[3,5-Bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[3-(2-pyridyl)-2-propynyl]piperazine dihydrochloride (0.2 g) was made free with saturated aqueous sodium bicarbonate solution and extracted with ethyl acetate. The extract was dried over magnesium sulfate and evaporated under reduced pressure. The resulting residue dissolved in methanol (10 ml) and the solution was hydrogenated over 10% palladium on activated carbon (50 mg) at room temperature under 2-3 atoms. After removal of catalyst by filtration, the filtrate was concentrated under reduced pressure. The residue was treated with 4N hydrogen chloride in ethyl acetate solution to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[3-(2-pyridyl)propyl]piperazine dihydrochloride.

reactant | (2R)-1-[3,5-Bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[3-(2-pyridyl)-2-propynyl]piperazine dihydrochloride | 0.2 g | Cl.Cl.FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC#CC2=NC=CC=C2)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[3-(2-pyridyl)propyl]piperazine dihydrochloride | Cl.Cl.FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CCCC2=NC=CC=C2)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C30H31F6N3O.2ClH/c1-20-8-9-22(14-21(20)2)15-27-19-38(11-5-7-26-6-3-4-10-37-26)12-13-39(27)28(40)23-16-24(29(31,32)33)18-25(17-23)30(34,35)36;;/h3-4,6,8-10,14,16-18,27H,5,7,11-13,15,19H2,1-2H3;2*1H/t27-;;/m1../s1
